US07517896B2
V.3. Methyl 4[((tert-butoxycarbonyl){2-[(5-phenylpentyl)oxy]-phenethyl}amino)-methyl]benzoate
1.78 g (4.63 mmol) of methyl 4-{[(tert-butoxycarbonyl)-(2-hydroxyphenethyl)-amino]methyl}benzoate from Ex.V.2, 1.05 g (4.63 mmol) of 5-phenyl-1-bromopentane and 0.77 g (5.55 mmol) of potassium carbonate in 15 ml of acetonitrile are heated at reflux for 18 hours. The reaction mixture is poured into water, extracted with ethyl acetate and dried over magnesium sulphate and the solvent is distilled off under reduced pressure. A solid is obtained which is reacted further without purification.

reactant | methyl 4-{[(tert-butoxycarbonyl)-(2-hydroxyphenethyl)-amino]methyl}benzoate | 4.63 mmol, 1.78 g | C(C)(C)(C)OC(=O)N(CCC1=C(C=CC=C1)O)CC1=CC=C(C(=O)OC)C=C1 | C22H27NO5
reactant | 5-phenyl-1-bromopentane | 4.63 mmol, 1.05 g | C1(=CC=CC=C1)CCCCCBr | C11H15Br
reactant | potassium carbonate | 5.55 mmol, 0.77 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | Methyl 4[((tert-butoxycarbonyl){2-[(5-phenylpentyl)oxy]-phenethyl}amino)-methyl]benzoate | C(C)(C)(C)OC(=O)N(CCC1=C(C=CC=C1)OCCCCCC1=CC=CC=C1)CC1=CC=C(C(=O)OC)C=C1 | C33H41NO5
